US05504085
A. 2,6,7-Trichloroquinoxaline-3 (4H)-one
To a solution of 2.5 g (~10.8 mmol) 6,7-dichloro-quinoxaline-2,3(1H,4H)-dione in 100 ml of dry N,N-dimethylformamide was added at 0° C. 8.5 ml of 1.93 M phosgene in toluene (~16.3 mmol). Stirring was continued at 24° C. for 20 h. Addition of 100 ml H2O gave a precipitate (2.4 g). Purification by column chromatography (silica gel) by using ethyl acetate as eluent gave the title compound (1.5 g; 56%), m.p. >300° C.

reactant | 6,7-dichloro-quinoxaline-2,3(1H,4H)-dione | ~10.8 mmol, 2.5 g | ClC=1C=C2NC(C(NC2=CC1Cl)=O)=O | C8H4Cl2N2O2
reactant | phosgene | 1.93 M, 8.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | toluene | ~16.3 mmol | C1(=CC=CC=C1)C | C7H8
reactant | H2O | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,6,7-Trichloroquinoxaline-3 (4H)-one | 2.4 g | ClC1=NC2=CC(=C(C=C2NC1=O)Cl)Cl | C8H3Cl3N2O
